US08461328B2
A mixture of 4-(6-benzenesulfonyl-2-methyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-4-methyl-piperidine-1-carboxylic acid tert-butyl ester (280 mg, 0.56 mmol)) in DCM/TFA was stirred for 1 hr. The solvent was evaporated under vacuum and the resulting residue purified by column chromatography (SCX-2, gradient: 0 to 50% [2M NH3 in methanol] in DCM) to afford 205 mg (93%) of 6-benzenesulfonyl-1-(4-methyl-piperidine-4-yl)1,6-dihydro-1,2,3,5,6-pentaaza-as-indacene. 1H NMR (400 MHz, DMSO): δ 9.25 (s, 1H), 8.19-8.17 (m, 3H), 7.76-7.72 (m, 1H), 7.65 (t, 2H), 7.48 (d, 1H), 2.83-2.80 (m, 4H), 2.55 (m, 2H), 2.00 (d, 2H), 1.82 (s, 3H).

reactant | 4-(6-benzenesulfonyl-2-methyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-4-methyl-piperidine-1-carboxylic acid tert-butyl ester | 0.56 mmol, 280 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)N1N(NC2=CN=C3N(C=CC3=C12)S(=O)(=O)C1=CC=CC=C1)C | C25H32N6O4S
solvent | DCM TFA | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | 6-benzenesulfonyl-1-(4-methyl-piperidine-4-yl)1,6-dihydro-1,2,3,5,6-pentaaza-as-indacene | 205 mg, 93% | C1(=CC=CC=C1)S(=O)(=O)N1C2=NC=C3N=NN(C3=C2C=C1)C1(CCNCC1)C | C19H20N6O2S
